US08044052B2
Synthesis of 4-(3-(6-(trifluoromethyl)pyridin-3-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide
A solution of 5-(3-(piperidin-4-ylidenemethyl)phenoxy)-2-(trifluoromethyl)pyridine hydrochloride (0.100 g), phenyl pyridazin-3-ylcarbamate (0.070 g, 1.2 equiv), and triethylamine (0.083 mL, 2.2 equiv) in dimethyl sulfoxide (2 mL, 0.13 M) was heated to 65° C. for 2 h. The reaction was cooled to room temperature. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts was washed with water and brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% ethyl acetate/dichloromethane) to give the title compound as a white foam (0.089 g, 72% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.46 (2H, t, J=5.5 Hz), 2.56 (2H, t, J=5.6 Hz), 3.60 (2H, t, J=5.8 Hz), 3.69 (2H, t, J=5.8 Hz), 6.37 (1H, s), 6.92 (2H, m), 7.07 (1H, d, J=7.6 Hz), 7.30-7.46 (3H, m), 7.62 (1H, d, J=8.8 Hz), 8.25 (1H, d, J=8.2 Hz), 8.45 (1H, d, J=2.5 Hz), 8.76 (1H, d, J=1.9 Hz).

reactant | 5-(3-(piperidin-4-ylidenemethyl)phenoxy)-2-(trifluoromethyl)pyridine hydrochloride | 0.100 g | Cl.N1CCC(CC1)=CC=1C=C(OC=2C=CC(=NC2)C(F)(F)F)C=CC1
reactant | phenyl pyridazin-3-ylcarbamate | 0.070 g, 1.2 equiv | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | triethylamine | 0.083 mL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 0.13 M, 2 mL | CS(=O)C | C2H6OS
product | 4-(3-(6-(trifluoromethyl)pyridin-3-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide | 0.089 g, 72% yield | FC(C1=CC=C(C=N1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1)(F)F | C23H20F3N5O2
